US09102669B2
1-(1-(6-(1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline was prepared according to the procedure described in Example 1, Method A, STEP 4, reacting pyrazole-4-boronic acid pinacol ester and 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline.

reactant | pyrazole-4-boronic acid pinacol ester | N1N=CC(=C1)B1OC(C)(C)C(C)(C)O1 | C9H15BN2O2
reactant | 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | ClC1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C17H18ClFN4
product | 1-(1-(6-(1H-pyrazol-4-yl)pyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | N1N=CC(=C1)C1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C20H21FN6
